US09145392B2
6-(4-(1-(2-(Dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-ethylpyrimidin-4-amine (“82”)
In a 10 mL round-bottom flask containing 6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-vinyl-pyrimidin-4-ylamine; compound with trifluoro-acetic acid (25.00 mg; 0.04 mmol; 1.00 eq.) in methanol (2.00 ml; 49.37 mmol; 1231.95 eq.) under argon was slowly poured 10% Pd/C (80.00 mg; 0.75 mmol; 18.76 eq.). The round-bottom flask was vacuumed and then filled with H2. The procedure was repeated for 4 more times before the mixture was stirred at rt for O/N under H2 (balloon). The obtained mixture was filtered and then purified with Waters pre-HPLC. LC-MS: (M+1=506, obsd.=506).

reactant | 6-{4-[1-(2-dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-vinyl-pyrimidin-4-ylamine; compound with trifluoro-acetic acid | 0.04 mmol, 25.00 mg, 1.00 eq. | FC(C(=O)O)(F)F.CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)C=C)C
reactant | methanol | 49.37 mmol, 2.00 ml, 1231.95 eq. | CO | CH4O
catalyst | Pd/C | 0.75 mmol, 80.00 mg, 18.76 eq. | [Pd] | Pd
product | 6-(4-(1-(2-(Dimethylamino)ethyl)-4-(4-fluoro-3-(trifluoromethyl)phenyl)-1H-imidazol-2-yl)piperidin-1-yl)-5-ethylpyrimidin-4-amine | CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)CC)C | C25H31F4N7
